US06897231B2
SYNTHESIS OF 3-{3-[2-(4-FLUOROPHENYL)ACETYLAMINO]PHENYL}-1H-INDAZOLE-5-CARBOXAMIDE
Following Example 290, the reaction of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (200 mg, 0.56 mmol) with 4-fluorophenylacetic acid (0.11 g, 0.71 mmol) and EDCI (0.17 g, 0.89 mmol) furnished 52 mg (23% yield) of the title compound. 1H NMR (DMSOd6) δ 13.2 (br s, 1H), 10.2 (s, 1H), 8.6 (s, 1H), 8.23 (s, 1H), 8.1 (br s, 1H), 7.9 (dd, 1H), 7.73 (m, 1H), 7.6 (d, 1H), 7.5 (t, 1H), 7.47-7.34 (m, 3H), 7.17 (m, 2H), 3.7 (s, 2H); ES-MS (m/z) 389 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.56 mmol, 200 mg | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | 4-fluorophenylacetic acid | 0.71 mmol, 0.11 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | EDCI | 0.89 mmol, 0.17 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-{3-[2-(4-FLUOROPHENYL)ACETYLAMINO]PHENYL}-1H-INDAZOLE-5-CARBOXAMIDE | 52 mg, 23% yield | FC1=CC=C(C=C1)CC(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C22H17FN4O2
